* C:\Users\minhk\OneDrive\Education\Master\04_Projects\Muscular-Atrophy-Measurement-System\hardware\simulation\EIM_ver01.asc
* Generated by LTspice 26.0.0 for Windows.
V2 5V_cc 0 5
V3 0 5V_ee 5
X§U5 MCLK FSEL PSEL AVDD 0 N001 IOut IOutB SBO IOut AD9834 TYPE=0 COMP=1 PHASE0={P0} PHASE1={P1} fMCLK={fMCLK} FREQ0={F0} FREQ1={F1} ;§pnba MCLK)FSEL)PSEL)AVDD)AGND)FSADJ)IOUT)IOUTB)SBO)VIN
V1 AVDD 0 3.3
V4 MCLK 0 PULSE(0 3.3 0 2n 2n {0.5/fMCLK-1n} {1/fMCLK})
V5 FSEL 0 PULSE(0 3.3 {2.2/FREQ0} 2n 2n {4/FREQ1} 1m)
V6 PSEL 0 PULSE(0 3.3 {6.2/FREQ0} 2n 2n {2/FREQ0} 1m)
R7 0 N001 {RSET}
R8 SBO 0 3.1k
C6 SBO 0 15p
R9 IOutB 0 {RTERM}
R10 IOut 0 {RTERM}
X§U3 N002 N006 5V_cc 5V_ee VOut_Buff AD8014 ;§pnba IN+)IN-)Vcc)Vee)Out
R1 N008 IOut 49.9
R2 N009 IOutB 49.9
R3 N002 VOut_SinEnd 22
RF_AD8014 N006 VOut_Buff 499
RG_AD8014 N006 0 499
Rsource N003 VOut_Buff 51
R4 N003 0 51
C1 N003 0 719p
L1 N005 VOut_Filtered 1.88µ Rser=1m
C2 N004 0 1.2n
L2 N003 N004 1µ Rser=1m
C3 N005 0 1.32n
L3 N004 N005 1.5µ Rser=1m
R5 VOut_Filtered 0 51
C4 VOut_Filtered 0 1.08n
C5 N004 N003 680p
C7 N005 N004 400p
C8 VOut_Filtered N005 132p
V7 12V_cc 0 12
V8 0 12V_ee 12
V9 3.3V_cc 0 3.3
V10 0 3.3V_ee 3.3
C9 0 5V_cc 0.1µ V=25 Irms=1.36 Rser=0.12 Lser=0 mfg="Vishay" pn="T51D106M025" type="Tantalum Polymer"
C10 0 5V_cc 10µ V=25 Irms=1.36 Rser=0.12 Lser=0 mfg="Vishay" pn="T51D106M025" type="Tantalum Polymer"
C11 5V_ee 0 0.1µ V=25 Irms=1.36 Rser=0.12 Lser=0 mfg="Vishay" pn="T51D106M025" type="Tantalum Polymer"
C12 5V_ee 0 10µ V=25 Irms=1.36 Rser=0.12 Lser=0 mfg="Vishay" pn="T51D106M025" type="Tantalum Polymer"
X§U2 N008 N009 0 N007 5V_cc 5V_ee VOut_SinEnd AD8130 ;§pnba IN+)IN-)Ref)FB)V+)V-)OUT
RF_AD8130 N007 VOut_SinEnd 1K
RG_AD8130 N007 0 499
X§U1 VOut_Filtered 0 N016 N010 12V_cc 12V_ee N010 AD8130 ;§pnba IN+)IN-)Ref)FB)V+)V-)OUT
R_sense N011 N010 2K
X§U4 N011 N016 12V_cc 12V_ee N017 AD8065 ;§pnba In+)In-)V+)V-)OUT
R_isolation N017 N016 100
X§U6 N028 0 0 I_SENSE_RAW 5V_cc 5V_ee I_SENSE_RAW AD8130 ;§pnba IN+)IN-)Ref)FB)V+)V-)OUT
R_Curr_Sense 0 N028 100
X§U7 N018 N013 N013 5V_cc 5V_ee N019 N015 N015 AD8066 ;§pnba +INA)-INA)OUTA)V+)V-)+INB)-INB)OUTB
X§U8 N013 N015 0 V_TISSUE_RAW 5V_cc 5V_ee V_TISSUE_RAW AD8130 ;§pnba IN+)IN-)Ref)FB)V+)V-)OUT
X§U9 N025 N022 N022 5V_cc 5V_ee N026 N024 N024 AD8066 ;§pnba +INA)-INA)OUTA)V+)V-)+INB)-INB)OUTB
C13 N025 V_TISSUE_RAW 0.1µ
R6 INPA N022 49.9
R12 N024 INPB 49.9
C14 I_SENSE_RAW N026 0.1µ
R11 N012 N014 470
C15 N012 N014 22n
R13 N014 +IN_A 100
R14 +IN_A N020 470
C16 +IN_A N020 22n
R15 N023 -IN_B 470
C17 N023 -IN_B 22n
R16 N027 N028 470
C18 N027 N028 22n
R17 -IN_B N027 100
R18 N020 N023 200
R19 N020 N021 500
C19 N021 N023 5n
C20 N018 +IN_A 0.1µ
C21 -IN_B N019 0.1µ
C22 N012 N011 0.047µ
R20 INPA 0 52.3
R21 INPB 0 52.3
* Power supply
.param RTERM=200
.param RSET=6.8k
.param fMCLK=75Meg
.param FREQ0=3Meg
.param FREQ1=1Meg
.param PHASE0=0
.param PHASE1=180
* ; ===== User parameters =====
.param N=2**28
.param M=2**12
.param F0=int(FREQ0*N/fMCLK)
.param F1=int(FREQ1*N/fMCLK)
.param P0=int(PHASE0*N/360)
.param P1=int(PHASE1*N/360)
* Register encoding (Do not change)
* Frequency resolution\nPhase resolution\nValue for register FREQ0\nValue for register FREQ1\nValue for register PHASE0\nValue for register PHASE1
* DDS
.include ad8130.cir
.include Ad8014.cir
* Differential Amplifier
* R1, R2 should be consider to 10 or 22 Ohm
* Buffer
* Eliptic 7th-Order LPF
* Voltage Controlled Current Source
* Tetrapolar
* LOAD
* =============================================
* EIM TETRAPOLAR — FULL NODE MEASUREMENT
* Khoi Vo — Master Thesis Debug
* =============================================
.tran 0 20us 8us 50n
.options reltol=0.001 gmin=1e-10 cshunt=1e-15
* =============================================
* BLOCK 1: VCCS OUTPUT
* =============================================
.meas TRAN I_inj_pk     MAX  I(R_sense)           FROM 10u TO 18u
.meas TRAN I_inj_min    MIN  I(R_sense)           FROM 10u TO 18u
.meas TRAN I_inj_pp     PARAM I_inj_pk-I_inj_min
.meas TRAN I_inj_rms    RMS  I(R_sense)           FROM 10u TO 18u
* =============================================
* BLOCK 2: TETRAPOLAR TISSUE VOLTAGE
* =============================================
.meas TRAN V_inner1_rms   RMS  V(+IN_A)           FROM 10u TO 18u
.meas TRAN V_inner2_rms   RMS  V(-IN_B)           FROM 10u TO 18u
.meas TRAN V_diff_rms     RMS  V(+IN_A,-IN_B)     FROM 10u TO 18u
.meas TRAN V_diff_pp      PP   V(+IN_A,-IN_B)     FROM 10u TO 18u
* Impedance magnitude (ohms)
.meas TRAN Z_tissue PARAM V_diff_rms/I_inj_rms
* =============================================
* BLOCK 3: U5 VSENSE_BUFFER outputs
* =============================================
.meas TRAN V_buf_A_rms    RMS  V(+IN_A)           FROM 10u TO 18u
.meas TRAN V_buf_B_rms    RMS  V(-IN_B)           FROM 10u TO 18u
* =============================================
* BLOCK 4: U6 VSENSE_DIFF output
* =============================================
.meas TRAN V_TISSUE_RAW_rms  RMS  V(V_TISSUE_RAW)  FROM 10u TO 18u
.meas TRAN V_TISSUE_RAW_pp   PP   V(V_TISSUE_RAW)  FROM 10u TO 18u
* Gain of VSENSE_DIFF
.meas TRAN G_VSENSE_DIFF  PARAM V_TISSUE_RAW_rms/V_diff_rms
* =============================================
* BLOCK 5: U7 ISENSE_DIFF
* =============================================
.meas TRAN V_Rcurr_rms    RMS  V(N027)     FROM 10u TO 18u
.meas TRAN I_SENSE_RAW_rms  RMS  V(I_SENSE_RAW)    FROM 10u TO 18u
* Gain of ISENSE_DIFF
.meas TRAN G_ISENSE_DIFF  PARAM I_SENSE_RAW_rms/V_Rcurr_rms
* =============================================
* BLOCK 6: U8 DET_BUFFER outputs (to AD8302)
* =============================================
.meas TRAN V_INPA_rms     RMS  V(INPA)             FROM 10u TO 18u
.meas TRAN V_INPB_rms     RMS  V(INPB)             FROM 10u TO 18u
* Gain of DET_BUFFER channels
.meas TRAN G_DET_A  PARAM V_INPA_rms/V_TISSUE_RAW_rms
.meas TRAN G_DET_B  PARAM V_INPB_rms/I_SENSE_RAW_rms
* =============================================
* BLOCK 7: OVERALL CHAIN
* =============================================
* Total gain V-path: tissue → INPA
.meas TRAN G_total_V  PARAM V_INPA_rms/V_diff_rms
* Total gain I-path: R_curr_sense → INPB
.meas TRAN G_total_I  PARAM V_INPB_rms/V_Rcurr_rms
* Ratio INPA/INPB (AD8302 will measure this)
.meas TRAN Ratio_AB    PARAM V_INPA_rms/V_INPB_rms
.meas TRAN Ratio_dB    PARAM 20*log10(V_INPA_rms/V_INPB_rms)
* AD8302 VMAG estimate (30mV/dB, center at 900mV)
.meas TRAN VMAG_est    PARAM 0.9+Ratio_dB*0.03
* =============================================
* BLOCK 8: PHASE
* =============================================
.meas TRAN T_zero_V  WHEN V(+IN_A,-IN_B)=0  RISE=5
.meas TRAN T_zero_I  WHEN I(R_sense)=0       RISE=5
.meas TRAN Phase_deg PARAM 360*(T_zero_V-T_zero_I)*3Meg
* =============================================
* BLOCK 9: SAFETY CHECK
* =============================================
.meas TRAN I_safety_pct  PARAM 100*I_inj_rms/0.030
* IEC 60601-1 BF limit at 3MHz = 30mA rms
* Result = percentage of safety limit
* VSENSE_BUFFER
* VSENSE_DIFF
* ISENSE_DIFF
* U8: DET_BUFFER
* === DEBUG: Probe AD8066 outputs trực tiếp ===
.meas TRAN V_OUTA_rms   RMS  V(N012)        FROM 10u TO 18u
.meas TRAN V_OUTA_pp    PP   V(N012)         FROM 10u TO 18u
.meas TRAN V_OUTB_rms   RMS  V(N014)        FROM 10u TO 18u
.meas TRAN V_OUTB_pp PP V(N014) FROM 10u TO 18u
* === DEBUG: Probe AD8130 pins trực tiếp ===
.meas TRAN V_U6_INP_rms  RMS  V(N012)     FROM 10u TO 18u
.meas TRAN V_U6_INM_rms  RMS  V(N014)     FROM 10u TO 18u
.meas TRAN V_U6_FB_rms   RMS  V(V_TISSUE_RAW)      FROM 10u TO 18u
.meas TRAN V_U6_OUT_pp   PP   V(V_TISSUE_RAW)      FROM 10u TO 18u
* Library below included based on ModelFile attribute of instance X§U3 (C:\Users\minhk\OneDrive\Education\Master\04_Projects\Muscular-Atrophy-Measurement-System\hardware\simulation\AD8014.asy)
.lib Ad8014.cir
* Library below included based on ModelFile attribute of instance X§U4 (C:\Users\minhk\AppData\Local\LTspice\lib\sym\OpAmps\AD8065.asy)
.lib AD8065.sub
* Library below included based on ModelFile attribute of instance X§U7, X§U9 (C:\Users\minhk\AppData\Local\LTspice\lib\sym\OpAmps\AD8066.asy)
.lib AD8066.sub
* Library below included based on ModelFile attribute of instance X§U2, X§U1, X§U6, X§U8 (C:\Users\minhk\OneDrive\Education\Master\04_Projects\Muscular-Atrophy-Measurement-System\hardware\simulation\AD8130.asy)
.lib ad8130.cir
* Library below included based on ModelFile attribute of instance X§U5 (C:\Users\minhk\AppData\Local\LTspice\lib\sym\DAC\AD9834.asy)
.lib AD9834.sub
.backanno
.end
